US04204870
4-Benzoyloxy-3-(2-pyridylazo)-1-naphthalenesulfonic acid.
4-Hydroxy-3-(2-pyridylazo)-1-naphthalenesulfonic acid (110 g) was added to pyridine (350 ml) followed by benzoyl chloride (250 ml). Triethylamine (100 ml) was added slowly and the reaction mixture got warm. After 1 hour the mixture was diluted with five times its volume of acetone and filtered. The product was washed with acetone and allowed to suck dry. It was dissolved in water (minimum volume) and neutralized with hydrochloric acid. After filtration, the product was washed with acetone and ether. Yield 120 g (83 percent).

reactant | 4-Hydroxy-3-(2-pyridylazo)-1-naphthalenesulfonic acid | 110 g | OC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)O)N=NC1=NC=CC=C1 | C15H11N3O4S
reactant | pyridine | 350 ml | N1=CC=CC=C1 | C5H5N
reactant | benzoyl chloride | 250 ml | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
reactant | Triethylamine | 100 ml | C(C)N(CC)CC | C6H15N
solvent | acetone | CC(=O)C | C3H6O
product | 4-Benzoyloxy-3-(2-pyridylazo)-1-naphthalenesulfonic acid | C(C1=CC=CC=C1)(=O)OC1=C(C=C(C2=CC=CC=C12)S(=O)(=O)O)N=NC1=NC=CC=C1 | C22H15N3O5S
